US07217730B2
3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole-4-carboxylic acid methylamide
To a solution of 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole-4-carboxylic acid (150 mg, 0.45 mmol), EDCI (104 mg, 0.54 mmol) and HOBt (91.2 mg, 0.68 mmol) in DMF (3 mL) was added diisopropylethylamine (0.39 mL, 2.25 mmol) at room temperature. A solution of methylamine (0.45 mL of 2.0 M in THF, 0.90 mmol) was added to the mixture and the mixture was stirred overnight at room temperature. The solution was diluted with H2O (5 mL) and extracted with EtOAc (3×10 mL). The organic solution was washed brine (20 mL), dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 40% EtOAc in hexanes) to give 140 mg (90%) of title compound as a pale yellow solid. 1H NMR (CDCl3): 300 MHz δ 8.28 (bs, 1H), 7.20 (m, 2H), 7.00 (d, J=7.35 Hz, 1H), 6.40 (bs, 1H), 3.91 (t, J=6.41 Hz, 2H), 3.08 (m, 5H), 2.54 (s, 3H), 0.88 (s, 9H), −0.08 (s, 6H).

reactant | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole-4-carboxylic acid | 0.45 mmol, 150 mg | C(C)(C)(C)[Si](OCCC1=CNC=2C(=CC=C(C12)C(=O)O)C)(C)C | C18H27NO3Si
reactant | EDCI | 0.54 mmol, 104 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.68 mmol, 91.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 2.25 mmol, 0.39 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine | 0.90 mmol, 2.0 M, 0.45 mL | CN | CH5N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 5 mL | O | H2O
product | 3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole-4-carboxylic acid methylamide | 140 mg, 90% | CNC(=O)C=1C=2C(=CNC2C(=CC1)C)CCO[Si](C)(C)C(C)(C)C | C19H30N2O2Si
